US06555552B2
1-Chloro-2-vinyl-4-(trifluoromethoxy)benzene
2-Bromo-1-chloro-4-(trifluoromethoxy)benzene (Description 25; 1.0 g, 3.6 mmol) and tri-n-butylvinyl tin (1.21 g, 3.8 mmol) were dissolved in toluene (20 mL) and the solution was degassed for 45 minutes with nitrogen. Tetrakis(triphenylphosphine) palladium (0) (100 mg) was then added and the solution heated at reflux for 2 hours. Once cooled, the solution was concentrated and the residue was purified by silica chromatography to give the title compound (274 mg, 1.2 mmol).

reactant | 2-Bromo-1-chloro-4-(trifluoromethoxy)benzene | 3.6 mmol, 1.0 g | BrC1=C(C=CC(=C1)OC(F)(F)F)Cl | C7H3BrClF3O
reactant | tri-n-butylvinyl tin | 3.8 mmol, 1.21 g | C(CCC)C(=C(CCCC)CCCC)[Sn]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Chloro-2-vinyl-4-(trifluoromethoxy)benzene | 1.2 mmol, 274 mg | ClC1=C(C=C(C=C1)OC(F)(F)F)C=C | C9H6ClF3O
